US04479953
0.96 gram (0.005 mole) of 3-amino-5,6-dichloropyrazinaldehyde, 0.54 gram (0.005 mole) of phenylhydrazine and 20 milliliters of ethanol were heated with stirring and refluxed for 10 minutes to obtain a 5,6-dichloro-3-[(2-phenylhydrazono)methyl]pyrazinamine product as a solid. The reaction mixture was allowed to cool and the solid product recovered by filtration and recrystallized from ethanol to obtain 0.71 gram (50 percent yield) of purified product as yellow flakes, m.p. 277°-278° C. (dec.). Elemental analyses were as follows:

reactant | 3-amino-5,6-dichloropyrazinaldehyde | 0.005 mole, 0.96 gram | NC=1C(=NC(=C(N1)Cl)Cl)C=O | C5H3Cl2N3O
reactant | phenylhydrazine | 0.005 mole, 0.54 gram | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 20 milliliters | C(C)O | C2H6O
product | 5,6-dichloro-3-[(2-phenylhydrazono)methyl]pyrazinamine | ClC=1N=C(C(=NC1Cl)N)C=NNC1=CC=CC=C1 | C11H9Cl2N5
